US08703784B2
A mixture of 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate (3.06 g, 3.93 mmol), 1-phenyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.38 g, 5.11 mmol), PdCl2(dppf)CH2Cl2 (321 mg, 0.393 mmol), and K3PO4 (2.50 g, 11.8 mmol) in dioxane/H2O (40/4 mL) was degassed and then heated at 90° C. for 16 h. LCMS showed very good conversion to the desired product (795), and about 10% de-iodination byproduct (653). The reaction mixture was diluted with EtOAc and washed with H2O and brine, dried over Na2SO4, and concentrated. The crude product was purified by a SiO2 column (0-40% EtOAc/Hexanes, Rf=0.6 in 50% EtOAc/Hexanes) to afford 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate as a brown oil (2.28 g, 73%).

reactant | 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate | 3.93 mmol, 3.06 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)C2CCC(CC2)(C(=O)OCCOC)OCCOC)COCC[Si](C)(C)C)(C)C | C31H55IN4O7Si2
reactant | 1-phenyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 5.11 mmol, 1.38 g | C1(=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H19BN2O2
reactant | K3PO4 | 11.8 mmol, 2.50 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 4 mL | O1CCOCC1.O
product | 2-methoxyethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(1-phenyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-methoxyethoxy)cyclohexanecarboxylate | 2.28 g, 73% | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NN(C2)C2=CC=CC=C2)C2CCC(CC2)(C(=O)OCCOC)OCCOC)COCC[Si](C)(C)C)(C)C | C40H62N6O7Si2
